US05378703
Step A: 3-(2-Hydroxypropyl )thiophene-2-sulfonamide
To a solution of 3-(2-hydroxypropyl)thiophene (2.95 g, 20.77 mmol) in THF (25 mL) at -78° C. was added n-butyllithium (18.3 mL of a 2.5M solution, 45.69 mmol). This mixture was stirred at -78° C. for 1 hr and sulfur dioxide was added until the solution maintained a pH of 3. The reaction mixture was warmed to room temperature, stirred for 30 min, and evaporated to a residue which was dissolved in water (25 mL). Sodium acetate (5.1 g, 62.31 mmol) and hydroxylamine-O-sulfonic acid (7.0 g, 62.31 mmol) were added, the mixture stirred at room temperature for 18 hr, and the pH was adjusted to 8 with sodium bicarbonate. This solution was extracted with ethyl acetate (2×200 mL), the extracts were dried (MgSO4) and evaporated to a residue which was purified by column chromatography (silica, 50% hexane/ethyl acetate) to give 1.9 g (42%) of the desired product.

reactant | 3-(2-hydroxypropyl)thiophene | 20.77 mmol, 2.95 g | OC(CC1=CSC=C1)C | C7H10OS
reactant | n-butyllithium | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | Sodium acetate | 62.31 mmol, 5.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 62.31 mmol, 7.0 g | NOS(=O)(=O)O | H3NO4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(2-Hydroxypropyl )thiophene-2-sulfonamide | 1.9 g, 42% | OC(CC1=C(SC=C1)S(=O)(=O)N)C | C7H11NO3S2
